US04710507
A mixture of 8-methoxy-6-[2,6-dimethylpyrid-3-yl]-2-(1H)-quinolone (0.15 g) and 48% aqueous HBr (5 cm3) was heated under reflux for 19 hours. The mixture was diluted with water (20 cm3), basified to pH7 with 5M sodium hydroxide solution, and extracted with CHCl3 (3×50 cm3). The combined and dried (MgSO4) chloroform extracts were evaporated in vacuo to afford a solid which was recrystallised from ethyl acetate to give 8-hydroxy-6-[2,6-dimethylpyrid-3-yl]-2-(1H)-quinolone, m.p. 276°-277°, (0.132 g).

reactant | 8-methoxy-6-[2,6-dimethylpyrid-3-yl]-2-(1H)-quinolone | 0.15 g | COC=1C=C(C=C2C=CC(NC12)=O)C=1C(=NC(=CC1)C)C | C17H16N2O2
reactant | HBr | 5 cm3 | Br | BrH
reactant | sodium hydroxide | 5M | [OH-].[Na+]
solvent | water | 20 cm3 | O | H2O
product | 8-hydroxy-6-[2,6-dimethylpyrid-3-yl]-2-(1H)-quinolone | OC=1C=C(C=C2C=CC(NC12)=O)C=1C(=NC(=CC1)C)C | C16H14N2O2
